US06686381B2
{3-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic Acid tert-Butyl Ester
A mixture of 613 mg (2.9 mmol) 2-methyl phenacylbromide (literature: WO9907666), 691 mg (2.4 mmol) [3-(3-Dimethylaminomethylene-thioureido)-propyl]-carbamic acid tert-butyl ester and 1 ml (7.2 mmol) NEt3 in 20 ml ethanol was heated to 100° C. for 16 h. The mixture was concentrated and purified by flash column chromatography on silica eluting with ethyl acetate/n-hexane 1/1. The combined product fractions were evaporated and 693 mg (77%) of the title compound (MS (m/e): 375.9 (MH+, 100%)) were obtained.

reactant | 2-methyl phenacylbromide | 2.9 mmol, 613 mg | CC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO
reactant | [3-(3-Dimethylaminomethylene-thioureido)-propyl]-carbamic acid tert-butyl ester | 2.4 mmol, 691 mg | C(C)(C)(C)OC(NCCCNC(=S)N=CN(C)C)=O | C12H24N4O2S
reactant | NEt3 | 7.2 mmol, 1 ml | CCN(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | {3-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic Acid tert-Butyl Ester | 693 mg | C(C)(C)(C)OC(NCCCNC=1SC(=CN1)C(C1=C(C=CC=C1)C)=O)=O | C19H25N3O3S
